US04427596
A suspension of 12 g of 3-chloro-4-[2-(1-methyl-2,2-dichlorocyclopropyl)ethoxy]nitrobenzene and 0.1 g of platimum dioxide in benzene-ethanol (1:1) was subjected to catalytic reduction under room temperature and atmospheric pressure, whereby 2.5 liters of hydrogen were absorbed. The resulting mixture was filtered, and the solvent was removed under reduced pressure. The residue was recrystallized from ethanol to give 10 g of 3-chloro-4-[2-(1-methyl-2,2-dichlorocyclopropyl)ethoxy]aniline.

reactant | 3-chloro-4-[2-(1-methyl-2,2-dichlorocyclopropyl)ethoxy]nitrobenzene | 12 g | ClC=1C=C(C=CC1OCCC1(C(C1)(Cl)Cl)C)[N+](=O)[O-] | C12H12Cl3NO3
solvent | benzene-ethanol | C1(=CC=CC=C1)CCO | C8H10O
product | 3-chloro-4-[2-(1-methyl-2,2-dichlorocyclopropyl)ethoxy]aniline | 10 g | ClC=1C=C(N)C=CC1OCCC1(C(C1)(Cl)Cl)C | C12H14Cl3NO
